US09119868B2
Step 5: (4-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-2-(methylsulfonyl)phenyl)boronic acid
To a solution of 6-(N-(4-bromo-3-(methylsulfonyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (200 mg, 0.315 mmol) in 1,4-Dioxane (2 mL) wad added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (400 mg, 1.574 mmol), potassium acetate (154 mg, 1.574 mmol) and Pd(II)(dppf)Cl2 DCM complex (12.85 mg, 0.016 mmol). The mixture was stirred under nitrogen at 80° C. After 4 hours the mixture was cooled to RT and diluted with EtOAc (10 mL). The resulting solution was washed with water, saturated brine, and dried over sodium sulfate. After evaporation of the solvent, the crude residue was dissolved in 10 mL of THF and the resulting solution cooled in an ice water bath. The solution was treated with 1N aqueous HCl (1.574 mL, 1.574 mmol) followed by sodium periodate (135 mg, 0.629 mmol). The mixture was stirred at 0° C. for 20 minutes and then allowed to warm to RT. After 18 hours, the mixture was partitioned between water and EtOAc and the phases separated. The aqueous solution was extracted with EtOAc. The combined EtOAc solutions were washed with 5% aqueous sodium bisulfite, saturated brine, dried over sodium sulfate and concentrated to dryness at reduced pressure. The residue was subjected to HPLC purification (ACN: Water—0.1% Formic acid) to provide the pure product (12 mg, 6.4%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.97 (br. s., 2H), 7.87 (d, J=5.37 Hz, 2H), 7.56-7.64 (m, 2H), 7.49 (s, 1H), 7.15-7.24 (m, 2H), 6.15-6.37 (m, 1H), 5.77-5.92 (m, 1H), 3.30 (s, 3H), 3.13 (br. s., 3H), 3.00 (d, J=2.34 Hz, 3H), 1.91-2.10 (m, 1H), 1.18-1.34 (m, 1H), 0.95-1.10 (m, 1H), 0.83-0.93 (m, 1H), 0.69-0.83 (m, 1H), 0.44-0.61 (m, 1H). LCMS (m/z, ES+)=601 (M+H+).

reactant | 6-(N-(4-bromo-3-(methylsulfonyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.315 mmol, 200 mg | BrC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)S(=O)(=O)C | C27H24BrFN2O6S2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.574 mmol, 400 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 1.574 mmol, 154 mg | C(C)(=O)[O-].[K+]
reactant | HCl | 1.574 mmol, 1N, 1.574 mL | Cl | ClH
reactant | sodium periodate | 0.629 mmol, 135 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | 1,4-Dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | (4-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-2-(methylsulfonyl)phenyl)boronic acid | 12 mg, 6.4% | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)N(S(=O)(=O)C)C1=CC(=C(C=C1)B(O)O)S(=O)(=O)C | C27H26BFN2O8S2
